US04000143
4'-Acetoxy-2'-[2-(1-methyl-2-piperidyl)-ethyl]benzanilide suspended in 1N sodium hydroxide is stirred until solution takes place. The pH of the aqueous solution is adjusted to 9 with 6N hydrochloric acid and an oil precipitates which is extracted with ethyl acetate. The product isolated by removal of the ethyl acetate solvent is crystallized from ethanol to provide analytically pure 4-hydroxy-2'-[2-(1-methyl-2-piperidyl)ethyl]benzanilide, m.p. 178.5°-182.5° C. (corr.).

reactant | 4'-Acetoxy-2'-[2-(1-methyl-2-piperidyl)-ethyl]benzanilide | C(C)(=O)OC1=CC(=C(NC(C2=CC=CC=C2)=O)C=C1)CCC1N(CCCC1)C | C23H28N2O3
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | 4-hydroxy-2'-[2-(1-methyl-2-piperidyl)ethyl]benzanilide | OC1=CC=C(C(=O)NC2=C(C=CC=C2)CCC2N(CCCC2)C)C=C1 | C21H26N2O2
